US05639752
J. (R)-3-(N-Methylpyrrolidin-2-ylmethyl)-5-(3-nitropyrid-2-ylamino)-1H-indole
(R)-3-(N-Methylpyrrolidin-2-ylmethyl)indole and 2-chloro-3-nitropyridine were used. Triethylamine was used as base, acetonitrile was used as solvent, and the reaction was heated at reflux for 3.5 hours. Chromatography afforded the title compound (81%) as a dark red foam: 1H NMR (CDCl3) δ10.11 (br s, 1H), 8.52 (dd, J=1.7 Hz, J=1.8 and 8.4 Hz, 1H), 8.43 (1.8 and 4.5 Hz; 1H), 8.33 (br s, 1H), 7.77 (d, 1H), 7.35 (d, J=8.7 Hz, 1H), 7.26 (dd, J=2.0 and 8.6 Hz, 1H), 7.03 (d, J=2.1 Hz, 1H), 6.74 (dd, J=4.44 and 8.4 Hz, 1H), 3.21-3.12 (m, 2H), 2.68-2.58 (m, 1H), 2.54-2.46 (m, 1H), 2.47 (s, 3H), 2.28-2.18 (m, 1H), 1.89-1.73 (m, 2H), 1.73-1.54 (m, 2H); 13C NMR (CDCl3) δ155.7, 151.5, 135.5, 134.3, 129.5, 128.2, 128.1, 123.1, 119.4, 114.3, 113.0, 111.4, 66.7, 57.5, 40.8, 31.5, 29.9, 21.9, Anal. calcd. for C19H21N5O2.1/3H2O: C, 63.85; H, 6.11; N, 19.59. Found: C, 63.86; H, 5.86; N, 19.31.

reactant | (R)-3-(N-Methylpyrrolidin-2-ylmethyl)indole | CN1[C@H](CCC1)CC1=CNC2=CC=CC=C12 | C14H18N2
reactant | 2-chloro-3-nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | (R)-3-(N-Methylpyrrolidin-2-ylmethyl)-5-(3-nitropyrid-2-ylamino)-1H-indole | 81% | CN1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)NC1=NC=CC=C1[N+](=O)[O-] | C19H21N5O2
